US04757080
(a) 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(11-phthalimido-undecyloxy)carbonyl-pyridine
Prepared by a method analogous to that of Example 1(a) from 9.33 g (37.5 mmol) of 2-(3-nitrobenzylidene)-acetoacetic acid methyl ester and 15.00 g (37.5 mmol) of 3-amino-crotonic acid-(11-phthalimido-undecyl)ester. 23.18 g (98%) of yellow crystals, melting point 130°-132° C., obtained from methanol.

reactant | 2-(3-nitrobenzylidene)-acetoacetic acid methyl ester | 37.5 mmol, 9.33 g | COC(C(C(=O)C)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C12H11NO5
reactant | 3-amino-crotonic acid-(11-phthalimido-undecyl)ester | 37.5 mmol, 15.00 g | C1(C=2C(C(N1CCCCCCCCCCCOC(\C=C(\C)/N)=O)=O)=CC=CC2)=O | C23H32N2O4
solvent | methanol | CO | CH4O
product | 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(11-phthalimido-undecyloxy)carbonyl-pyridine | 23.18 g, 98% | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCCCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C35H41N3O8
